US07812032B2
Crystals of ABT-578 tetrahydrofuran solvate were prepared by dissolving 107 mg of amorphous ABT-578 in 200 uL of tetrahydrofuran at ambient temperature and storing at −12 degrees Celsius for 30 hours before seeded with a trace amount of toluene solvate crystals. Crystalline solids formed after seeding by further incubation at −12 degrees Celsius. FIG. 20A shows the X-ray powder diffraction pattern of the crystals, and desolvation of the crystals yielded a semi-crystalline phase. The desolvated crystals were obtained by allowing solvate crystals equilibrate at ambient temperature followed by further drying at 30 degrees Celsius under vacuum (approximately 3 inches of mercury). FIG. 20B shows the X-ray powder diffraction patterns of the desolvated solvate.

reactant | ABT-578 | 107 mg | C[C@@H]1CCC2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@@H]([C@@H](C4)OC)N5C=NN=N5)C)/C)O)OC)C)C)/C)OC | C52H79N5O12
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 200 uL | O1CCCC1 | C4H8O
product | ABT-578 tetrahydrofuran | C[C@@H]1CCC2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@@H]([C@@H](C4)OC)N5C=NN=N5)C)/C)O)OC)C)C)/C)OC.O1CCCC1 | InChI=1S/C52H79N5O12.C4H8O/c1-31-16-12-11-13-17-32(2)43(65-8)28-39-21-19-37(7)52(64,69-39)49(61)50(62)56-23-15-14-18-41(56)51(63)68-44(34(4)26-38-20-22-40(45(27-38)66-9)57-30-53-54-55-57)29-42(58)33(3)25-36(6)47(60)48(67-10)46(59)35(5)24-31;1-2-4-5-3-1/h11-13,16-17,25,30-31,33-35,37-41,43-45,47-48,60,64H,14-15,18-24,26-29H2,1-10H3;1-4H2/b13-11+,16-12+,32-17+,36-25+;/t31-,33-,34-,35-,37-,38+,39?,40+,41+,43+,44+,45-,47-,48+,52-;/m1./s1
